US06002008
Methyl 4-ethoxy-3-methoxybenzoate
A mixture of 25.0 g (137 mmol) methyl vanillate, 38.87 g (274 mmol) potassium carbonate, 500 ml DMF, and 16.5 ml (206 mmol) ethyl iodide was heated to 100° C. under N2. At 2.5 hours, cooled and removed solids. Stripped solvent, and partitioned between water and methylene chloride. Stripped solvent and dried in vacuo, giving 25.85 g of white solid: mass spectrum (EI m/e): M=210.0.

reactant | methyl vanillate | 137 mmol, 25.0 g | C(C1=CC(OC)=C(O)C=C1)(=O)OC | C9H10O4
reactant | potassium carbonate | 274 mmol, 38.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 206 mmol, 16.5 ml | C(C)I | C2H5I
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | Methyl 4-ethoxy-3-methoxybenzoate | 25.85 g | C(C)OC1=C(C=C(C(=O)OC)C=C1)OC | C11H14O4
